US04559354
A solution of 5 g of 2-[4-(2,3-epoxypropoxy)-phenyl]-1-methyl-4-(trifluoromethyl)-imidazole and 4.7 g of 5-[2-(benzylamino)-ethoxy]-salicylamide in 100 ml of isopropanol is heated under reflux for 15 hours and the solvent is subsequently removed in a rotary evaporator. The crude 1-[N-benzyl-2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-[1-methyl-4-(trifluoromethyl)-imidazol-2-yl]-phenoxy]-2-propanol, obtained in the form of an oil, is further processed in that form.

reactant | 2-[4-(2,3-epoxypropoxy)-phenyl]-1-methyl-4-(trifluoromethyl)-imidazole | 5 g | O1C(COC2=CC=C(C=C2)C=2N(C=C(N2)C(F)(F)F)C)C1 | C14H13F3N2O2
reactant | 5-[2-(benzylamino)-ethoxy]-salicylamide | 4.7 g | C(C1=CC=CC=C1)NCCOC1=CC=C(C(C(=O)N)=C1)O | C16H18N2O3
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 1-[N-benzyl-2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-[1-methyl-4-(trifluoromethyl)-imidazol-2-yl]-phenoxy]-2-propanol | C(C1=CC=CC=C1)N(CC(COC1=CC=C(C=C1)C=1N(C=C(N1)C(F)(F)F)C)O)CCOC1=CC(=C(C=C1)O)C(N)=O | C30H31F3N4O5
